US06159990
(+)-3-(3-(4-Aminocarbonyl-4-(4-chloro)phenylpiperidin-1-yl)-propyl)aminocarbonyl-4-(3,4-difluoro)phenyl-2-oxazolidinone: 3-(4-(4-chlorophenyl)-4-cyanopiperidin-1-yl)propylcarbamic acid tert-butyl ester (0.150 g, 5.39 mmol) in conc. H2SO4 (1 mL) was stirred at room temperature for 30 hours. The solution was concentrated, neutralized with 10% KOH solution and extracted into 25 mL of dichloromethane. The organic layer was dried over sodium sulfate, filtered and concentrated to give 0.185 g (79%) of 1-(3-aminopropyl)-4-(4-chlorophenyl)piperidine-4-carboxamide which was used as such for the subsequent step.

reactant | 3-(4-(4-chlorophenyl)-4-cyanopiperidin-1-yl)propylcarbamic acid tert-butyl ester | 5.39 mmol, 0.150 g | C(C)(C)(C)OC(NCCCN1CCC(CC1)(C#N)C1=CC=C(C=C1)Cl)=O | C20H28ClN3O2
reactant | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
product | 1-(3-aminopropyl)-4-(4-chlorophenyl)piperidine-4-carboxamide | 0.185 g, 79% | NCCCN1CCC(CC1)(C(=O)N)C1=CC=C(C=C1)Cl | C15H22ClN3O
